US06130222
A mixture of 4-benzoylpiperidine hydrochloride (6.77 g, 30.0 mmol), di-tert-butyldicarbonate (7.2 g, 33.0 mmol) and KHCO3 (6.0 g, 60 mmol) in H2O--TBF (50/20 mL) was refluxed for 1 h. The reaction mixture was extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine, dried over MgSO4. Removal of solvents gave 4-benzoyl-N-t-butoxylcarbonyl-piperidine (8.54 g, 98%); δH (400 MHz, CDCl3) 1.47 (s, 9H), 1.70 (m, 2H), 1.83 (m, 2H), 2.91 (m, 2H), 3.42 (m, 2H), 4.18 (brs, 2H), 7.46 (m, 2H), 7.56 (m, 1H), 7.93 (m, 2H).

reactant | 4-benzoylpiperidine hydrochloride | 30.0 mmol, 6.77 g | Cl.C(C1=CC=CC=C1)(=O)C1CCNCC1
reactant | di-tert-butyldicarbonate | 33.0 mmol, 7.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 4-benzoyl-N-t-butoxylcarbonyl-piperidine | 8.54 g, 98% | C(C1=CC=CC=C1)(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C17H23NO3
